US05364856
Preparation of (-)(4R)-6-(5-oxazolyl)-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]indole
A mixture of (-)(2aR,4S)-6-(5-oxazolyl)-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole (300 mg, 0.9 mmol) and 0.5 g of HnO2 in 50 ml of methylene chloride was stirred at room temperature for 16 hours. The oxidant was removed by filtration through celite. The crude product obtained after filtering and removing the solvent was purified by flash chromatography, using ethyl acetate as eluent, to provide 100 mg of title compound. Recrystallization from hexane gave 60 mg of pure title compound.

reactant | (-)(2aR,4S)-6-(5-oxazolyl)-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole | 0.9 mmol, 300 mg | O1C=NC=C1C1=C2C=3[C@H](CNC3C=C1)C[C@@H](C2)N(CCC)CCC | C20H27N3O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (-)(4R)-6-(5-oxazolyl)-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]indole | 100 mg | O1C=NC=C1C1=C2C=3C(=CNC3C=C1)C[C@@H](C2)N(CCC)CCC | C20H25N3O
